* Extracted by KLayout with GF180MCU LVS runset on : 10/09/2025 23:28

.SUBCKT Nmos_Comparator vss i_bias_n iref inn v_3_7_n v_5_11_n v_6_9_n vout vdd
M$1 v_5_11_n v_5_11_n vdd vdd pfet_03v3 L=0.5U W=10U AS=4.55P AD=4.55P
+ PS=16.82U PD=16.82U
M$3 v_6_9_n v_5_11_n vdd vdd pfet_03v3 L=0.5U W=10U AS=4.55P AD=4.55P PS=16.82U
+ PD=16.82U
M$5 v_5_11_n v_6_9_n vdd vdd pfet_03v3 L=0.5U W=10U AS=4.55P AD=4.55P PS=16.82U
+ PD=16.82U
M$7 v_6_9_n v_6_9_n vdd vdd pfet_03v3 L=0.5U W=10U AS=4.55P AD=4.55P PS=16.82U
+ PD=16.82U
M$9 v_3_7_n v_5_11_n vdd vdd pfet_03v3 L=0.5U W=16.5U AS=7.5075P AD=7.5075P
+ PS=26.57U PD=26.57U
M$11 vout v_6_9_n vdd vdd pfet_03v3 L=0.5U W=16.5U AS=7.5075P AD=7.5075P
+ PS=26.57U PD=26.57U
M$13 i_bias_n iref vss vss nfet_03v3 L=1U W=5U AS=2.175P AD=2.175P PS=9.24U
+ PD=9.24U
M$15 iref iref vss vss nfet_03v3 L=1U W=2.5U AS=1.525P AD=1.525P PS=6.22U
+ PD=6.22U
M$16 vss v_3_7_n v_3_7_n vss nfet_03v3 L=1U W=3.5U AS=2.135P AD=2.135P PS=8.22U
+ PD=8.22U
M$17 vout v_3_7_n vss vss nfet_03v3 L=1U W=3.5U AS=2.135P AD=2.135P PS=8.22U
+ PD=8.22U
M$18 i_bias_n inn v_5_11_n vss nfet_03v3 L=1U W=4U AS=2.44P AD=2.44P PS=9.22U
+ PD=9.22U
M$19 v_6_9_n \$5 i_bias_n vss nfet_03v3 L=1U W=4U AS=2.44P AD=2.44P PS=9.22U
+ PD=9.22U
.ENDS Nmos_Comparator
